US07214698B2
2.1 g (7.7 mmol) of 3-(4-iodimidazol-1-yl)-1,1-dimethyl-propylamine and 3.4 g (7.7 mmol) of N-[2-benzyloxy-5-(2-ethoxy-1,2-dihydroxy-ethyl)-phenyl]-phenylsulphonamide in 25 mL ethanol were refluxed for 18 h. The reaction mixture was cooled to 0° C. and then combined with 0.3 g (7.7 mmol) sodium borohydride. The mixture was stirred for a further 3 h at ambient temperature and then combined with glacial acetic acid. The solvent was removed using the rotary evaporator and the residue was dissolved in 300 mL ethyl acetate/water (1:2). The aqueous phase was made alkaline with conc. ammonia and separated from the organic phase. The organic phase was washed twice with 100 mL water and once with 100 mL of saturated aqueous sodium chloride solution, dried over sodium sulphate and freed from solvent using the rotary evaporator. The residue was purified by flash column chromatography [methylene chloride/methanol/ammonia (90:10:1)]. 3.5 g (5.0 mmol, 69%) N-(2-benzyloxy-5-{1-hydroxy-2-[3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propylamino]-ethyl}-phenyl)-phenylsulphonamide were obtained as a yellowish solid.

reactant | 3-(4-iodimidazol-1-yl)-1,1-dimethyl-propylamine | 7.7 mmol, 2.1 g | IC=1N=CN(C1)CCC(C)(C)N | C8H14IN3
reactant | N-[2-benzyloxy-5-(2-ethoxy-1,2-dihydroxy-ethyl)-phenyl]-phenylsulphonamide | 7.7 mmol, 3.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(O)OCC)O)NS(=O)(=O)C1=CC=CC=C1 | C23H25NO6S
reactant | sodium borohydride | 7.7 mmol, 0.3 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N-(2-benzyloxy-5-{1-hydroxy-2-[3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propylamino]-ethyl}-phenyl)-phenylsulphonamide | 5.0 mmol, 3.5 g, 69% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CNC(CCN1C=NC(=C1)I)(C)C)O)NS(=O)(=O)C1=CC=CC=C1 | C29H33IN4O4S
